US08957203B2
Step 4: Preparation of (3R)-ethyl 2-amino-3-ethyl-5-methylnon-8-enoate hydrochloride
A solution of (3R)-ethyl 2-(diphenylmethyleneamino)-3-ethyl-5-methylnon-8-enoate (7 g, 17.26 mmole) in diethyl ether (20 mL) was added aqueous 1.5 N HCl solutions (100 mL) and the reaction mass was stirred at room temperature for overnight. The reaction mass was washed with diethyl ether (100 mL). The aqueous solution was basified using saturated sodium bicarbonate solution and extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure to get crude compound (2.6 g, 62.4%). The crude compound was taken to the next step without further purification. MS: MS m/z 242.4 (M++1).

reactant | (3R)-ethyl 2-(diphenylmethyleneamino)-3-ethyl-5-methylnon-8-enoate | 17.26 mmole, 7 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)[C@@H](CC(CCC=C)C)CC | C27H35NO2
reactant | HCl | 1.5 N, 100 mL | Cl | ClH
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (3R)-ethyl 2-amino-3-ethyl-5-methylnon-8-enoate hydrochloride | 2.6 g, 62.4% | Cl.NC(C(=O)OCC)[C@@H](CC(CCC=C)C)CC | InChI=1S/C14H27NO2.ClH/c1-5-8-9-11(4)10-12(6-2)13(15)14(16)17-7-3;/h5,11-13H,1,6-10,15H2,2-4H3;1H/t11?,12-,13?;/m1./s1
